US07402596B2
A mixture of 2-adamantan-1-yl-N-(1-oxo-isochroman-5-yl)-acetamide (39 mg, 0.115 mmol) and 2,4-difluorobenzylamine (99 mg, 0.689 mmol) was heated at 160° C. for 40 h. The reaction vessel was cooled to room temperature and the solvents removed under reduced pressure. The crude product was purified by prep. HPLC to afford 2-adamantan-1-yl-N-[2-(2,4-difluoro-benzyl)-1-oxo-1,2,3,4-tetrahydro-isoquinolin-5-yl]-acetamide (19.2 mg, 0.042 mmol, 36%) as a white solid.

reactant | 2-adamantan-1-yl-N-(1-oxo-isochroman-5-yl)-acetamide | 0.115 mmol, 39 mg | C12(CC3CC(CC(C1)C3)C2)CC(=O)NC2=C3CCOC(C3=CC=C2)=O | C21H25NO3
reactant | 2,4-difluorobenzylamine | 0.689 mmol, 99 mg | FC1=C(CN)C=CC(=C1)F | C7H7F2N
product | 2-adamantan-1-yl-N-[2-(2,4-difluoro-benzyl)-1-oxo-1,2,3,4-tetrahydro-isoquinolin-5-yl]-acetamide | 0.042 mmol, 19.2 mg, 36% | C12(CC3CC(CC(C1)C3)C2)CC(=O)NC2=C3CCN(C(C3=CC=C2)=O)CC2=C(C=C(C=C2)F)F | C28H30F2N2O2
